US08258134B2
A solution of 2-[4-(2-chloro-phenylamino)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide (41.2 mg, 0.08 mmol) in tetrahydrofuran (2 mL) was treated with a 1 M aqueous hydrochloric acid solution (2 mL), and the reaction stirred at 25° C. overnight. At this point, the reaction was dried under nitrogen and suspended in ethyl acetate (20 mL), then washed with a 1:1 aqueous sodium bicarbonate/water solution (20 mL total) and a saturated aqueous sodium chloride solution (10 mL). The organics were dried over sodium sulfate, concentrated in vacuo, and dried from methylene chloride, ethanol, and diethyl ether, and in a vacuum oven at 50° C. for 3 h to afford 2-[4-(2-chloro-phenylamino)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide as a light yellow solid (29.6 mg, 78%); ES+-HRMS m/e calcd for C22H27N6O4Cl [M+H+] 475.1855 found 475.1855. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.86 (d, J=6.6 Hz, 3H), 0.88 (d, J=6.6 Hz, 3H), 1.44 (br. s., 1H), 1.62-1.81 (m, 1H), 2.00-2.22 (m, 1H), 3.20-3.32 (m, 2H), 3.70-3.92 (m, 2H), 4.08 (dd, J=13.4, 3.8 Hz, 1H), 4.71 (t, J=5.6 Hz, 1H), 4.94 (dd, J=5.1, 1.8 Hz, 1H), 5.49 (dd, J=11.0, 4.1 Hz, 1H), 5.54 (d, J=2.7 Hz, 1H), 6.35 (d, J=2.1 Hz, 1H), 7.28 (td, J=7.8, 1.2 Hz, 1H), 7.40 (td, J=7.8, 1.2 Hz, 1H), 7.47 (dd, J=7.8, 1.2 Hz, 1H), 7.52 (d, J=2.1 Hz, 1H), 7.60 (dd, J=7.8, 1.2 Hz, 1H), 7.86 (d, J=2.7 Hz, 1H), 8.94 (s, 1H), 10.65 (s, 1H).

reactant | 2-[4-(2-chloro-phenylamino)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide | 0.08 mmol, 41.2 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C(CC(C)C)N1N=CC(=CC1=O)NC1=C(C=CC=C1)Cl)=O)C | C25H31ClN6O4
reactant | hydrochloric acid | 1 M, 2 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[4-(2-chloro-phenylamino)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 29.6 mg, 78% | O[C@H](CN1N=C(C=C1)NC(C(CC(C)C)N1N=CC(=CC1=O)NC1=C(C=CC=C1)Cl)=O)CO | C22H27ClN6O4
